US04882323
B. hexahydro-5-phenyl-1H-1,2,5-triazepine dihydrochloride
A mixture of 1,2-dibenzoylhexahydro-5-phenyl-1H-1,2,5-triazepine (101.3 g), n-butanol (450 ml), 12N hydrochloric acid (915 ml) and water (915 ml) was mechanically stirred and heated under reflux on a steam bath overnight. Additional 12N hydrochloric acid (400 ml) and water (400 ml) were added and stirring and heating under reflux on a steam bath were continued for three days. n-Butanol (150 ml) was added and stirring and heating under reflux on a steam bath were continued for a further three days. After this time (7 days) the solid had dissolved. The mixture was extracted twice with ether and the aqueous solution was evaporated to smaller volume. Coevaporation with ethanol and concentrated hydrochloric acid caused crystallization of the titled product; wt. 57.5 g (66%), mp=211°-218°.

reactant | 1,2-dibenzoylhexahydro-5-phenyl-1H-1,2,5-triazepine | 101.3 g | C(C1=CC=CC=C1)(=O)N1N(CCN(CC1)C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C24H23N3O2
reactant | hydrochloric acid | 12N, 915 ml | Cl | ClH
reactant | water | 915 ml | O | H2O
reactant | hydrochloric acid | 12N, 400 ml | Cl | ClH
reactant | water | 400 ml | O | H2O
solvent | n-Butanol | 150 ml | C(CCC)O | C4H10O
solvent | n-butanol | 450 ml | C(CCC)O | C4H10O
product | hexahydro-5-phenyl-1H-1,2,5-triazepine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)N1CCNNCC1 | InChI=1S/C10H15N3.2ClH/c1-2-4-10(5-3-1)13-8-6-11-12-7-9-13;;/h1-5,11-12H,6-9H2;2*1H
